US06956129B2
4-Bromo-2-fluorocinnamic acid
62 ml of sulfuric acid were added to 236 ml of water and the mixture was cooled to 5° C. 57.0 g of 4-bromo-2-fluoroaniline were added at this temperature and a solution of 24.2 g of sodium nitrite in 45 ml of water was added dropwise at 0 to 2° C. in the course of 30 minutes and the mixture was stirred for 20 minutes. 2.8 g of amidosulfonic acid were then added. 5 ml of the diazonium salt solution were added dropwise at 40° C. to 27.5 g of acrylic acid, 0.23 g of palladium(II) acetylacetonate was added and the residual diazonium salt solution was added dropwise in the course of 20 minutes. The mixture was stirred at 40° C. for 4 hours. It was allowed to cool to room temperature and the product was isolated by filtration. After drying, 54.4 g of 4-bromo-2-fluorocinnamic acid were present (74% of theory; melting point: 218° C.).

reactant | sulfuric acid | 62 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-bromo-2-fluoroaniline | 57.0 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | sodium nitrite | 24.2 g | N(=O)[O-].[Na+]
reactant | amidosulfonic acid | 2.8 g | NS(=O)(=O)O | H3NO3S
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
solvent | water | 45 ml | O | H2O
catalyst | palladium(II) acetylacetonate | 0.23 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Pd+2]
solvent | water | 236 ml | O | H2O
product | 4-Bromo-2-fluorocinnamic acid | BrC1=CC(=C(C=CC(=O)O)C=C1)F | C9H6BrFO2
